US05401745
Dimethylaminopyridine (15 mg) followed by triethylamine (4.14 mL, 0.0279 mol) were added to a stirred solution of 2-amino-3-methylbenzoic acid (1.50 g, 0.0099 mol) in DMF (15 mL) under nitrogen at 0° C. The iso-butyryl chloride (2.07 mL, 0.0198 mol) was added dropwise then the mixture stirred at 0° C. for 30 min. followed by 30 min. at room temperature then at 120° C. for 1 hr. The suspension was then stirred at room temperature for 2 days. Ammonium carbonate (3.5 g) was added in portions and the mixture heated at 120° C. for 3 hr. After cooling to room temperature the mixture was poured into ice/water and extracted with ethyl acetate (3 times). The combined organic phase was washed with water, brine, dried (magnesium sulfate) and the solvent removed in vacuo to leave a cream solid. Recrystallisation (1:1 ethyl acetate/hexane) afforded 2-(iso-butyryl)amino-3-methylbenzamide (739 mg, 34%).

reactant | triethylamine | 0.0279 mol, 4.14 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-3-methylbenzoic acid | 0.0099 mol, 1.50 g | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | iso-butyryl chloride | 0.0198 mol, 2.07 mL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | Ammonium carbonate | 3.5 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Dimethylaminopyridine | 15 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | 2-(iso-butyryl)amino-3-methylbenzamide | 739 mg, 34% | C(C(C)C)(=O)NC1=C(C(=O)N)C=CC=C1C | C12H16N2O2
